US08877815B2
Synthesis of (S)-Benzyl 1-((S)-2-(tert-butoxycarbonylamino)-3-phenylpropanoyl)pyrrolidine-2-carboxylate
To a suspension of N-Boc-L-phenylalanine (1.000 g, 3.77 mmol) in acetonitrile (25 ml) at room temperature was added L-proline benzyl ester HCl (1.002 g, 4.15 mmol), PyBOP (2.060 g, 3.96 mmol) followed by DIPEA (1.382 ml, 7.92 mmol). The reaction turned to clear and was stirred at room temperature for 1 hour. The reaction was quenched by brine and was extracted with EtOAc. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by flash chromatography (silica gel, 30 to 50% EtOAc/HEP) and gave the title compound: 1.6 g (yield: 97%). LCMS (condition B): 453.4 (M+1); retention time=1.44 min.

reactant | N-Boc-L-phenylalanine | 3.77 mmol, 1.000 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | L-proline benzyl ester HCl | 4.15 mmol, 1.002 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | PyBOP | 3.96 mmol, 2.060 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 7.92 mmol, 1.382 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (S)-Benzyl 1-((S)-2-(tert-butoxycarbonylamino)-3-phenylpropanoyl)pyrrolidine-2-carboxylate | yield: 97% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C26H32N2O5
